US05834471
Ethyl 4-(1,2,4-triazol-1-yl)benzoate
1,2,4-Triazole (0.82 g, 0.01 mol), ethyl 4-fluorobenzoate (2 g, 0.01 mol) and anhydrous potassium carbonate (1.43 g, 0.01 mol) was dissolved in DMSO (30 ml) and heated to 90° C. for 18 h. The solution was poured into water (50 ml), extracted with ethyl acetate (50 ml), dried (sodium sulphate), filtered and evaporated to dryness under reduced pressure. The white solid was purified by flash column chromatography (silica, diethyl ether) to afford a white solid (1.59 g, 73%).

reactant | 1,2,4-Triazole | 0.01 mol, 0.82 g | N1N=CN=C1 | C2H3N3
reactant | ethyl 4-fluorobenzoate | 0.01 mol, 2 g | FC1=CC=C(C(=O)OCC)C=C1 | C9H9FO2
reactant | potassium carbonate | 0.01 mol, 1.43 g | C([O-])([O-])=O.[K+].[K+]
reactant | water | 50 ml | O | H2O
solvent | DMSO | 30 ml | CS(=O)C | C2H6OS
product | Ethyl 4-(1,2,4-triazol-1-yl)benzoate | 1.59 g, 73% | N1(N=CN=C1)C1=CC=C(C(=O)OCC)C=C1 | C11H11N3O2
